US06002008
6-Amino-4-(3-hydroxy-4-methoxy-phenylamino)-8-methoxy-quinoline-3-carbonitrile
Using the method described in Example 196, 0.1 g of 4-(3-hydroxy-4-methoxy-phenylamino)-8-methoxy-6-nitro-quinoline-3-carbonitrile and 0.09 g of iron was converted to the title compound: :MP=215° C. (dec)

reactant | 4-(3-hydroxy-4-methoxy-phenylamino)-8-methoxy-6-nitro-quinoline-3-carbonitrile | 0.1 g | OC=1C=C(C=CC1OC)NC1=C(C=NC2=C(C=C(C=C12)[N+](=O)[O-])OC)C#N | C18H14N4O5
catalyst | iron | 0.09 g | [Fe] | Fe
product | 6-Amino-4-(3-hydroxy-4-methoxy-phenylamino)-8-methoxy-quinoline-3-carbonitrile | NC=1C=C2C(=C(C=NC2=C(C1)OC)C#N)NC1=CC(=C(C=C1)OC)O | C18H16N4O3
